2167-12-16 07:09:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2167-12-15**] 06:51 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2167-12-15**] 11:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-12-16**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 74 (60 - 77) bpm
   BP: 166/102(118) {155/81(97) - 192/102(119)} mmHg
   RR: 15 (10 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                    990 mL
                                                                    478 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
   478 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,530 mL
                                                                  1,180 mL
   Urine:
                                                                    800 mL
                                                                  1,180 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                   -540 mL
                                                                   -703 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///14/
   Physical Examination
   VITAL SIGNS:
   T= BP= 175/85 HR= 63 RR= 16 O2= 100%
   GENERAL: Pleasant, pale but well appearing gentleman in NAD
   HEENT: Normocephalic, atraumatic. + conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Urostomy pick with foley in place and gold urine
   drianing into stoma bag. Palpable mass lateral to stoma.  Soft, NT, ND.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate.
   Labs / Radiology
   462 K/uL
   9.7 g/dL
   172 mg/dL
   4.6 mg/dL
   14 mEq/L
   5.1 mEq/L
   71 mg/dL
   110 mEq/L
   138 mEq/L
   31.7 %
   13.2 K/uL
        [image002.jpg]
                             [**2167-12-15**]  04:00 PM
                             [**2167-12-16**]  12:09 AM
                             [**2167-12-16**]  06:01 AM
   WBC
   13.2
   Hct
   30.2
   31.7
   Plt
   462
   Cr
   5.0
   4.6
   TropT
   <0.01
   <0.01
   Glucose
   130
   172
   Other labs: PT / PTT / INR:15.3/25.1/1.3, CK / CKMB /
   Troponin-T:61/3/<0.01, Alk Phos / T Bili:/0.2, LDH:157 IU/L, Ca++:8.2
   mg/dL, Mg++:2.5 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9765**] is a 69 year-old gentleman with metastatic bladder CA s/p
   cystectomy and unilateral nephrectomy and progressive obstructive
   uropathy, now admitted with anemia, chest pain, and hyperkalemia.
   .
   #. Renal Failure - no previous values in our system but by report, his
   Cr has been deteriorating since [**11-20**], prompting outpatient eval which
   showed obstructing mass in R ureter. Outpt plan was for nephrostomy
   tube placement [**12-14**].
   -- f/u CT scan to eval R hydro, ureteral obstruction
   -- U/A, urine lytes, osms
   -- f/u renal consult recs
   -- IR c/s for PCN placement, ? already on schedule for tomorrow
   .
   #. Anemia - guaiac negative on exam. DDx includes anemia of chronic
   inflammation, malignancy, chemotherapy, hemolysis and anemia [**3-16**]
   progressive renal failure.
   -- active T+S, 2 PIVs, but no evidence of bleeding at this time
   -- transfuse to goal >21
   -- check Fe studies, hemolysis labs
   -- continue iron
   #. Hyperkalemia - s/p calcium, insulin and D50, and kayexylate in ED.
   Improving to 5.2 on repeat.
   -- repeat K this evening
   -- repeat EKG ok
   -- trend K, expected to improve once renal failure resolved
   .
   # Chest Pain - resolved. No EKG changes suggestive of ischemia.
   -- ROMI with one additional set this PM
   -- monitor on tele
   .
   #. HTN
   -- hold outpatient meds for now, will restart if hypertenisve
   .
   #. h/o PE
   -- currently off coumadin for scheduled procedure
   -- IVC filter in place
   .
   # FEN:
   -- NPO p MN with maintenance IVF for IR guided PCN placement in AM
   .
   # PPX:
   -DVT ppx with sQ heparin
   -Bowel regimen
   -Pain management
   .
   # ACCESS:
   -- PIV's
   .
   # CODE STATUS:
   -- FULL, confirmed
   .
   EMERGENCY CONTACT:
   wife, HCP
   .
   DISPOSITION:
   -- ICU for now
   ICU Care
   Nutrition:
   Comments: renal diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-12-15**] 06:33 PM
   20 Gauge - [**2167-12-15**] 06:34 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2167-12-16 10:25:00 Physician Attending Progress Note
Chief Complaint: Acute renal failure, hyperkalemia, acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Nausea this AM, transient, perhaps related to ingestion of medication,
   now resolved.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2167-12-16**] 08:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-12-16**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 74 (60 - 77) bpm
   BP: 182/102(123) {155/81(97) - 192/102(123)} mmHg
   RR: 18 (10 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                    990 mL
                                                                    688 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
   688 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,530 mL
                                                                  1,180 mL
   Urine:
                                                                    800 mL
                                                                  1,180 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                   -540 mL
                                                                   -493 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///14/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Ostomy RLQ, draining urine.
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   462 K/uL
   172 mg/dL
   4.6 mg/dL
   14 mEq/L
   5.1 mEq/L
   71 mg/dL
   110 mEq/L
   138 mEq/L
   31.7 %
   13.2 K/uL
        [image002.jpg]
                             [**2167-12-15**]  04:00 PM
                             [**2167-12-16**]  12:09 AM
                             [**2167-12-16**]  06:01 AM
   WBC
   13.2
   Hct
   30.2
   31.7
   Plt
   462
   Cr
   5.0
   4.6
   TropT
   <0.01
   <0.01
   Glucose
   130
   172
   Other labs: PT / PTT / INR:15.3/25.1/1.3, CK / CKMB /
   Troponin-T:61/3/<0.01, Alk Phos / T Bili:/0.2, LDH:157 IU/L, Ca++:8.2
   mg/dL, Mg++:2.5 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   69 yom h/obladder cancer --> s/p resection, but with recurrent
   metastatic disease now resulting in obstruction of remaining ureter.
   HYPERKALEMIA -- Attributed to acute renal failure.  Good response to
   current regimen/management.  Monitor ECG.
   ACUTE RENAL FAILURE --  Normal one month ago.  Obstructive uropathy of
   remaining right kidney/ureter, with need for decompression.  Continue
   replace  HCO3 to goal >16.  Monitor creatinine, BUN.  Renal Service
   following.
   OBSTRUCTIVE UROPATHY -- Interventioal Radiology (IR) with plans for
   nephrostomy tube placement.  Urology Service following.
   HTN -- Plan use hydralazine prn while NPO.
   ILEUS
 unclear etiology, but concern for obstruction or adhesions.
   Would place NGT for decompression.  General Surgery evaluated in ER,
   and following.
   IVC FILTER --  prior pulmonary embolism, holding coumadin pending
   procedure.
   CHEST PAIN -- no evidence for MI by cardiac enzymes.  Resolved.
   ANEMIA -- attributed to subclinical blood loss and underlying
   malignancy (ACD).  Monitor serial Hct.  Transfuse if Hct <25
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-12-15**] 06:33 PM
   20 Gauge - [**2167-12-15**] 06:34 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2167-12-17 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Underwent nephrostomy tube placement
   - Renal recs: Will need Phosphate binder when re-starts diet
   - Urology recs: advance to clears,
   - Remained hypertensive at ~170/85 in PM.  Plan to re-start home HTN
   meds
   - PT refused AM labs and BP meds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2167-12-16**] 11:07 PM
   Heparin Sodium (Prophylaxis) - [**2167-12-17**] 04:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-12-17**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 67 (62 - 118) bpm
   BP: 154/112(116) {154/86(102) - 192/112(123)} mmHg
   RR: 16 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                  2,325 mL
                                                                    200 mL
   PO:
                                                                    225 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,100 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                    550 mL
   Urine:
                                                                  2,850 mL
                                                                    350 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                   -525 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   GENERAL: NAD
   HEENT: Dry oral mucosa.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Urostomy with foley in place and gold urine drianing into
   stoma bag. Tender superolateral to stoma.  Soft, NT, ND.
   EXTREMITIES: No edema or calf pain, warm and well perfused.
   Labs / Radiology
   462 K/uL
   9.7 g/dL
   183 mg/dL
   4.2 mg/dL
   18 mEq/L
   4.6 mEq/L
   65 mg/dL
   108 mEq/L
   142 mEq/L
   31.5 %
   13.2 K/uL
        [image002.jpg]
                             [**2167-12-15**]  04:00 PM
                             [**2167-12-16**]  12:09 AM
                             [**2167-12-16**]  06:01 AM
                             [**2167-12-16**]  12:47 PM
                             [**2167-12-16**]  08:32 PM
   WBC
   13.2
   Hct
   30.2
   31.7
   33.3
   31.5
   Plt
   462
   Cr
   5.0
   4.6
   4.6
   4.2
   TropT
   <0.01
   <0.01
   Glucose
   130
   172
   160
   183
   Other labs: PT / PTT / INR:15.3/25.1/1.3, CK / CKMB /
   Troponin-T:61/3/<0.01, Alk Phos / T Bili:/0.2, LDH:157 IU/L, Ca++:8.0
   mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9765**] is a 69 year-old gentleman with metastatic bladder CA s/p
   cystectomy and unilateral nephrectomy and progressive obstructive
   uropathy, admitted with anemia, chest pain, and hyperkalemia.
   .
   #. Renal Failure
 Likely [**3-16**] obstruction. Improving after placement of
   nephrostomy tube. Refused AM labs today
   -- will need labs to check Cr, and K
   -- appreciate urology recs
   -- appreciate renal recs
   -- phosphate binder when resumes diet
   .
   #. Inability to tolerate PO
 Ileus vs. obstruction vs intractable
   hiccups
   -- try reglan for hiccups, consider thorazine if reglan not effective
   -- continue to monitor clinically
   -- consider NG tube placement
   .
   #. Anemia - Guaiac negative on exam. DDx includes anemia of chronic
   inflammation, malignancy, chemotherapy, and anemia [**3-16**] progressive
   renal failure.
   -- active T+S, 2 PIVs, but no evidence of bleeding at this time
   -- transfuse to goal >25
   -- trend Hct
   -- continue iron
   #. Hyperkalemia
 Improving. Likely [**3-16**] renal failure.
   -- trend K, expected to improve once renal failure resolved
   .
   # Chest Pain - resolved. No EKG changes suggestive of ischemia. MI
   ruled out with enzymes.
   .
   #. HTN: Not tolerating home PO metoprolol.  Have been managing with IV
   metoprolol and hydralazine.
   -- restart home antihypertensives when patient can tolerate this
   -- plan to increased metoprolol to 75mg [**Hospital1 **]
   .
   #. h/o PE
   -- currently off coumadin, discuss w/ renal and uro
   -- IVC filter in place
   ICU Care
   Nutrition: NPO for procedure, will need low-phos, low-K diet when he
   resumes diet.  Will also need phos binder when he starts eating.
   Comments: renal diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-12-15**] 06:33 PM
   20 Gauge - [**2167-12-15**] 06:34 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: wife, HCP
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2167-12-17 12:31:00 Physician Attending Progress Note
Chief Complaint: Acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Refusing medications and blood draw this AM.
   External drain freelying draining urine.
   Hiccoughs today, increased from yesterday.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2167-12-16**] 11:07 PM
   Heparin Sodium (Prophylaxis) - [**2167-12-17**] 04:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-12-17**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 82 (67 - 118) bpm
   BP: 174/96(116) {154/86(102) - 183/117(126)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                  2,325 mL
                                                                    200 mL
   PO:
                                                                    225 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,100 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                  1,050 mL
   Urine:
                                                                  2,850 mL
                                                                    850 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                   -525 mL
                                                                   -850 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   462 K/uL
   183 mg/dL
   4.2 mg/dL
   18 mEq/L
   4.6 mEq/L
   65 mg/dL
   108 mEq/L
   142 mEq/L
   31.5 %
   13.2 K/uL
        [image002.jpg]
                             [**2167-12-15**]  04:00 PM
                             [**2167-12-16**]  12:09 AM
                             [**2167-12-16**]  06:01 AM
                             [**2167-12-16**]  12:47 PM
                             [**2167-12-16**]  08:32 PM
   WBC
   13.2
   Hct
   30.2
   31.7
   33.3
   31.5
   Plt
   462
   Cr
   5.0
   4.6
   4.6
   4.2
   TropT
   <0.01
   <0.01
   Glucose
   130
   172
   160
   183
   Other labs: PT / PTT / INR:15.3/25.1/1.3, CK / CKMB /
   Troponin-T:61/3/<0.01, Alk Phos / T Bili:/0.2, LDH:157 IU/L, Ca++:8.0
   mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   69 yom h/obladder cancer --> s/p resection, but with recurrent
   metastatic disease now resulting in obstruction of remaining ureter.
   HYPERKALEMIA -- Attributed to acute renal failure.  Good response to
   current regimen/management.  Monitor ECG.
   ACUTE RENAL FAILURE --  Normal one month ago.  Obstructive uropathy of
   remaining right kidney/ureter, with need for decompression.  Continue
   replace  HCO3 to goal >16.  Monitor creatinine, BUN.  Renal Service
   following.
   OBSTRUCTIVE UROPATHY
 s/p nephrostomy tube placement.  Urology Service
   following.
   HICCOUGHS
 persistent.  Possibly related to diaphragmatic irritation.
   [**Month (only) 8**] be related to uremia.  Consider trial Thorazine.
   HTN -- Plan use hydralazine prn while NPO.
   ILEUS
 unclear etiology, but concern for obstruction or adhesions.
   Would place NGT for decompression.  General Surgery evaluated in ER,
   and following.
   IVC FILTER --  prior pulmonary embolism, holding coumadin pending
   procedure.
   CHEST PAIN -- no evidence for MI by cardiac enzymes.  Resolved.
   ANEMIA -- attributed to subclinical blood loss and underlying
   malignancy (ACD).  Monitor serial Hct.  Transfuse if Hct <25
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-12-15**] 06:33 PM
   20 Gauge - [**2167-12-15**] 06:34 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes